US05760243
2-Methyl-5-phenylisoxazolidine (2.0 g, 12.3 mmol) and Zn powder (1.2 g, 18.3 mmol) in 10 molar aqueous acetic acid are heated to 65°-70° C. for 4 hours. Additional Zn powder (0.4 g, 6.1 mmol) is added and heating is continued for one more hour. The reaction mixture is neutralized with sodium hydroxide and extracted with chloroform. The extract is dried K2CO3) and concentrated to give N-methyl-3-phenyl-3-hydroxypropylamine.

reactant | 2-Methyl-5-phenylisoxazolidine | 12.3 mmol, 2.0 g | CN1OC(CC1)C1=CC=CC=C1 | C10H13NO
reactant | sodium hydroxide | [OH-].[Na+]
solvent | acetic acid | 10 molar | C(C)(=O)O | C2H4O2
catalyst | Zn | 18.3 mmol, 1.2 g | [Zn] | Zn
catalyst | Zn | 6.1 mmol, 0.4 g | [Zn] | Zn
product | N-methyl-3-phenyl-3-hydroxypropylamine | CNCCC(O)C1=CC=CC=C1 | C10H15NO
